US07923456B2
Step 1: 5-(4-Bromo-2-fluorophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (2-vinyloxyethoxy)-amide
To a solution of 5-(4-Bromo-2-fluorophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (2.0 g, 5.7 mmol) and O-(2-vinyloxyethyl)-hydroxylamine (0.71 g, 6.8 mmol) in DMF (44 mL) was added EDCI hydrochloride (1.42 g, 7.41 mmol), HOBt (1.0 g, 7.41 mmol) and DIPEA (0.97 mL, 5.69 mmol). The reaction mixture was stirred at room temperature for 3 hours before being concentrated in vacuo. The resultant residue was dissolved in 1:1 diethylether:ethyl acetate (30 mL) and aqueous saturated sodium hydrogen carbonate solution (30 mL) was added. The resultant mixture was sonicated until a precipitate formed. The precipitate was collected by filtration and washed with 1:1 diethylether:ethyl acetate to yield the title compound as a tan solid (1.33 g, 53%). LCMS (Method B): RT=2.78 min, M+H+=435/437.

reactant | 5-(4-Bromo-2-fluorophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid | 5.7 mmol, 2.0 g | BrC1=CC(=C(C=C1)NC1=C(C=CC=2N1C=NC2)C(=O)O)F | C14H9BrFN3O2
reactant | O-(2-vinyloxyethyl)-hydroxylamine | 6.8 mmol, 0.71 g | C(=C)OCCON | C4H9NO2
reactant | EDCI hydrochloride | 7.41 mmol, 1.42 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 7.41 mmol, 1.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 5.69 mmol, 0.97 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 44 mL | CN(C)C=O | C3H7NO
product | 5-(4-Bromo-2-fluorophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (2-vinyloxyethoxy)-amide | 1.33 g, 53% | C(=C)OCCONC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)Br)F)C=NC2 | C18H16BrFN4O3
